US05185339
Trimethylsilyl cyanide (14.56 g, 19.6 ml, 0.147 moles) was added dropwise to a solution of 2-benzylpyridine-N-oxide (10.86 g, 0.059 moles) and triethylamine (8.91 g, 12.3 ml, 0.088 moles) in acetonitrile (40 ml) at 20° C. After complete addition the mixture was heated under reflux for 20 hours, cooled to room temperature and partitioned between methylene chloride and saturated sodium bicarbonate. The organic layer was washed with water and saturated sodium chloride, and then dried over anhydrous magnesium sulphate. Removal of the solvent gave an orange oil which was purified by column chromatography (silica gel eluted with hexane:ethyl acetate 9:1) to give 2-benzyl-6-cyanopyridine (1.84 g, 16%) as a pale yellow oil.

reactant | Trimethylsilyl cyanide | 0.147 moles, 19.6 ml, 14.56 g | C[Si](C)(C)C#N | C4H9NSi
reactant | 2-benzylpyridine-N-oxide | 0.059 moles, 10.86 g | C(C1=CC=CC=C1)C1=[N+](C=CC=C1)[O-] | C12H11NO
reactant | triethylamine | 0.088 moles, 12.3 ml, 8.91 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 2-benzyl-6-cyanopyridine | 1.84 g, 16% | C(C1=CC=CC=C1)C1=NC(=CC=C1)C#N | C13H10N2
